US07449456B2
1-(4-Nitrophenyl)pyrroidin-3-ol and methanesulfonyl chloride were allowed to undergo the reaction in THF in the presence of triethylamine. The resulting compound and sodium cyanide were allowed to undergo the reaction in 1-methyl-2-pyrrolidone under heating. The resulting compound was subjected to catalytic hydrogenation in the same manner as shown in Reference Example 3 to obtain 1-(4-aminophenyl)pyrrolidine-3-carbonitrile. NMR2: 1.48 (9H, s), 3.12-3.19 (2H, m), 6.46-6.50 (2H, m).

reactant | 1-(4-Nitrophenyl)pyrroidin-3-ol | [N+](=O)([O-])C1=CC=C(C=C1)N1CC(CC1)O | C10H12N2O3
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | sodium cyanide | [C-]#N.[Na+]
solvent | THF | C1CCOC1 | C4H8O
solvent | 1-methyl-2-pyrrolidone | CN1C(CCC1)=O | C5H9NO
product | 1-(4-aminophenyl)pyrrolidine-3-carbonitrile | NC1=CC=C(C=C1)N1CC(CC1)C#N | C11H13N3
